US05512575
a. 9,10-Dihydro-9,10-methano-9-anthracenecarboxylic acid
To a cooled solution (0° C.) of 9-formyl-9,10-dihydro-9,10-methanoanthracene (literature preparation: M. Sunagawa, et al.; Chem. Pharm. Bull. Vol. 27 (1979) pp 1806-1812; U.S. Pat. No. 4,224,344 Sunagawa et al., Sumitomo, Ltd.; Sep. 23, 1980; U.S. Pat. No. 4,358,620 Sunagawa et al., Sumitomo, Ltd.; Nov. 9, 1982) (78.5 mmol) in acetone (260 mL) was added Jones reagent (24 mL; 27 g chromium trioxide, 23 mL water diluted up to 100 mL of reagent solution) in portions. The reagent was added until an orange color persists. The reaction, containing a significant amount of reduced chromium salts, was warmed to room temperature. The solvents were removed in vacuo and replaced with water (300 mL) and saturated with sodium chloride. The aqueous phase was extracted with ethyl acetate (3×300 mL). Combined organic extracts were extracted with 2.5N NaOH (3×400 mL). The basic aqueous extracts were acidified with 3N HCl, saturated with sodium chloride, and extracted with ethyl acetate (4×300 mL). Combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and reduced to a white solid. The title compound was formed in 80% yield as a white solid. MS (Cl CH4) m/z 237 (M+1,100), 265 (m+29,10), 219 (22), 209 (15), 193 (20).

reactant | 9-formyl-9,10-dihydro-9,10-methanoanthracene | C(=O)C12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H12O
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | 23 mL | O | H2O
solvent | acetone | 260 mL | CC(=O)C | C3H6O
catalyst | chromium trioxide | 27 g | [O-2].[O-2].[O-2].[Cr+6]
product | 9,10-Dihydro-9,10-methano-9-anthracenecarboxylic acid | 80% yield | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)O | C16H12O2
